### PR TITLE
[Merged by Bors] - feat: port RingTheory.Nilpotent

### PR DESCRIPTION
**Pull request by LukasMias**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+

File: Mathlib/RingTheory/Nilpotent.lean [hunk 1]
```diff
@@ -100,12 +100,18 @@ theorem isReduced_of_injective [MonoidWithZero R] [MonoidWithZero S] {F : Type _
...
 
+-- Porting note: Added etaExperiment line to synthesize RingHomClass
+set_option synthInstance.etaExperiment true
+
 theorem RingHom.ker_isRadical_iff_reduced_of_surjective {S F} [CommSemiring R] [CommRing S]
     [RingHomClass F R S] {f : F} (hf : Function.Surjective f) :
     (RingHom.ker f).IsRadical ↔ IsReduced S := by
-  simp_rw [isReduced_iff, hf.forall, IsNilpotent, ← map_pow, ← RingHom.mem_ker] <;> rfl
+  simp_rw [isReduced_iff, hf.forall, IsNilpotent, ← map_pow, ← RingHom.mem_ker]
+  rfl
```
Comment (Parcly-Taxel) [inline Mathlib/RingTheory/Nilpotent.lean:110]: Looks good to merge, except that the `rfl` here could be put on the previous line just like in the original.
